* C:\users\methalabeywickrama\Documents\analogProject\spectrumAnalyzer\FilterAndScaleManagement.asc
* Generated by LTspice 26.0.2 for Windows.
V1 v 0 15
V2 0 vcd 15
X§U1 N007 N003 VCC VEE N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V3 N005 0 AC 1
C1 N006 N005 1µ
R1 N006 0 10Meg
R2 N007 N006 47k
D1 VEE N007 D
D2 N007 VCC D
R3 N002 N003 25k
R4 N004 N002 2.8k
R5 N003 0 909
R6 Vout N004 10k
C2 Vout 0 820p
V4 VCC VEE 12V
C3 VCC 0 1µ
C4 0 VEE 1µ
R7 VCC N001 100k
R8 N001 VEE 100k
C6 N001 VEE 0.1µ
X§U2 N001 0 VCC VEE 0 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\users\methalabeywickrama\AppData\Local\LTspice\lib\cmp\standard.dio
.ac dec 100 10 100k
* .tran 5
* .wave "filtered_output.wav" 16 44100 V(Vout)
.ic V(ramp)=1
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\users\methalabeywickrama\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
